US09238639B2
B) Methyl 3-hydroxy-2-(6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)propanoate
To a mixture of methyl 3-hydroxy-2-(6-((4-methoxybenzyl)oxy)-1-benzofuran-3-yl)propanoate (86.9 mg) and MeOH (2.4 mL) was added 10% palladium on carbon (15 mg). The mixture was hydrogenated under balloon pressure for 21 h. The catalyst was removed by filtration and concentrated to give the title compound (56.0 mg).

reactant | methyl 3-hydroxy-2-(6-((4-methoxybenzyl)oxy)-1-benzofuran-3-yl)propanoate | 86.9 mg | OCC(C(=O)OC)C1=COC2=C1C=CC(=C2)OCC2=CC=C(C=C2)OC | C20H20O6
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
solvent | MeOH | 2.4 mL | CO | CH4O
product | Methyl 3-hydroxy-2-(6-hydroxy-2,3-dihydro-1-benzofuran-3-yl)propanoate | 56.0 mg | OCC(C(=O)OC)C1COC2=C1C=CC(=C2)O | C12H14O5
